US07250431B2
5-Fluoro-2-methyl-N-{3-[5-(2-methyl-benzoyl)-thiazol-2-ylamino]-benzyl}-benzenesulfonamide
A mixture of 35.8 mg (0.1 mmol)[2-(3-aminomethyl-phenylamino)-thiazol-5-yl]-o-tolyl-methanone; hydrochloride, 25 mg (0.12 mmol) 5-fluoro-2-methyl-benzenesulfonyl chloride (commercially available) and 69 ul (0.5 mmol) NEt3 in 3 ml DCM was stirred at 60° C. for 16 h. After evaporation of the volatiles the residue was taken up in 1.5 ml MeOH/formic acid 2/1 and subjected to reversed phase HPLC purification eluting with a gradient of acetonitrile/water. After evaporation of the product fractions 31 mg (62%) of the title compound was obtained.

reactant | [2-(3-aminomethyl-phenylamino)-thiazol-5-yl]-o-tolyl-methanone | 0.1 mmol, 35.8 mg | NCC=1C=C(C=CC1)NC=1SC(=CN1)C(=O)C1=C(C=CC=C1)C | C18H17N3OS
reactant | hydrochloride | Cl | ClH
reactant | 5-fluoro-2-methyl-benzenesulfonyl chloride | 0.12 mmol, 25 mg | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
reactant | NEt3 | 0.5 mmol, 69 ul | CCN(CC)CC | C6H15N
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-2-methyl-N-{3-[5-(2-methyl-benzoyl)-thiazol-2-ylamino]-benzyl}-benzenesulfonamide | FC=1C=CC(=C(C1)S(=O)(=O)NCC1=CC(=CC=C1)NC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O)C | C25H22FN3O3S2
